US05397793
Preparation of 4-(4-chlorophenyl)-2-(2-fluorophenyl)-2-(5-pyrimidyl) butanenitrile (Compound 41)
A 1 L 4-neck flask under a nitrogen atmosphere was charged with 4.4 g. of 60% sodium hydride (1.1 equiv., 0.11 moles), and washed with hexanes, in 75 ml. DMF. Then over 30 minutes, 27.3 g. of 4-(4-chlorophenyl)-2-(2-fluorophenyl) butanenitrile (1.0 equiv., 0.10 moles) in 110 ml. DMF was added dropwise to the base causing an exotherm to 30° C. After the addition was complete, the reaction mixture was stirred for 30 minutes. Over 5 minutes 17.5 g. of 5-bromopyrimidine (1.1 equiv., 0.11 moles) in 75 mi. DMF was added to the reaction mixture which was heated at 50° C. and monitored by GLC analysis. The reaction was quenched after 2 hours by the addition of 350 ml. water and extracted with 600 ml. ethyl acetate. The organic phase was washed with three 300 ml. portions of water, the organic phase dried over anhydrous magnesium sulfate, and then concentrated in vacuo at 50° C. to give 34.2 grams oil which solidified. The solid was with triturated with 75 ml. isopropanol, filtered, and dried to give 16.5 g. white solid (47.0% yield), m.p.=86° C.-88° C.

reactant | sodium hydride | 0.11 moles, 1.1 equiv. | [H-].[Na+]
reactant | 4-(4-chlorophenyl)-2-(2-fluorophenyl) butanenitrile | 0.10 moles, 1.0 equiv. | ClC1=CC=C(C=C1)CCC(C#N)C1=C(C=CC=C1)F | C16H13ClFN
reactant | 5-bromopyrimidine | 0.11 moles, 1.1 equiv. | BrC=1C=NC=NC1 | C4H3BrN2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-chlorophenyl)-2-(2-fluorophenyl)-2-(5-pyrimidyl) butanenitrile | 34.2 grams | ClC1=CC=C(C=C1)CCC(C#N)(C=1C=NC=NC1)C1=C(C=CC=C1)F | C20H15ClFN3
